US08492401B2
Preparation of N-(2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-2-phenyl-5-(trifluoromethyl)oxazole-4-carboxamide
The title compound was prepared according to amide synthesis general method B, utilizing 2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)aniline and 2-phenyl-5-(trifluoromethyl)oxazole-4-carboxylic acid (1.5 eq). The product was filtered from the crude reaction mixture, evaporated with methanol, and purified by silica gel chromatography (gradient 0 to 10% methanol in CH2Cl2) and by prep HPLC. MS Calcd for C31H29F3N6O3S: 622.20. Found (M+H)+ m/z=623.

reactant | 2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)aniline | COCCN1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(N)C=CC=C2 | C20H25N5OS
reactant | 2-phenyl-5-(trifluoromethyl)oxazole-4-carboxylic acid | 1.5 eq | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
product | N-(2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-2-phenyl-5-(trifluoromethyl)oxazole-4-carboxamide | COCCN1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)NC(=O)C=2N=C(OC2C(F)(F)F)C2=CC=CC=C2 | C31H29F3N6O3S
